US07902187B2
Ethyl 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-9-(tetrahydro-2H-pyran-4-yl)-8,9-dihydro-7H-purine-6-carboxylate.
To a solution of ethyl 5-amino-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-6-(tetrahydro-2H-pyran-4-ylamino)pyrimidine-4-carboxylate (800 mg, 2.0 mmol) in dry THF (10 mL) was added carbonyl diimidazole (2.0 g) and the mixture was stirred at 60° C. for 48 h in a sealed tube. The solvent was evaporated and water (25 mL) was added to the residue. Filtration and drying of the white solid gave 600 mg (51% yield) of desired product. 1H NMR (400 MHz, DMSO-d6) δ, ppm: 11.89 (s, 1H), 9.09 (s, 1H), 8.84 (dd, J=2.8, 2.4 Hz, 1H), 7.78 (dd, J=5.2, 5.2 Hz, 1H), 7.23 (m, 1H), 4.63 (m, 1H), 4.49 (q, J=6.8 Hz, 2H), 4.40 (dd, J=4.0, 3.0 Hz, 2H), 3.51 (t, J=11.6 Hz, 2H), 2.52 (m, 2H), 1.80 (d, J=2 Hz, 2H), 1.41 (t, J=7.1 Hz, 3H); LCMS (EI) m/z 427 (MH)+.

reactant | ethyl 5-amino-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-6-(tetrahydro-2H-pyran-4-ylamino)pyrimidine-4-carboxylate | 2.0 mmol, 800 mg | NC=1C(=NC(=NC1NC1CCOCC1)N1C=NC2=C1C=C(C=C2)F)C(=O)OCC | C19H21FN6O3
reactant | carbonyl diimidazole | 2.0 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-9-(tetrahydro-2H-pyran-4-yl)-8,9-dihydro-7H-purine-6-carboxylate | 600 mg, 51% yield | FC=1C=CC2=C(N(C=N2)C2=NC(=C3NC(N(C3=N2)C2CCOCC2)=O)C(=O)OCC)C1 | C20H19FN6O4
